US08349859B2
2,4-Dichloro-5-fluoropyrimidine (1 mmol) and 5-amino-2-methylindole (1.5 mmol) were dissolved in 3 ml CH3OH and 9 ml H2O. After the reaction mixture was stirred at room temperature for 1 h, it was diluted with H2O, acidified with 2N HCl, and sonicated. The reaction mixture was then filtered, washed with H2O and dried to give N-(2-chloro-5-fluoropyrimidin-4-yl)-2-methyl-1H-indol-5-amine in a yield of 78%.

reactant | 2,4-Dichloro-5-fluoropyrimidine | 1 mmol | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 5-amino-2-methylindole | 1.5 mmol | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
reactant | HCl | 2N | Cl | ClH
solvent | CH3OH | 3 ml | CO | CH4O
solvent | H2O | 9 ml | O | H2O
product | N-(2-chloro-5-fluoropyrimidin-4-yl)-2-methyl-1H-indol-5-amine | yield of 78% | ClC1=NC=C(C(=N1)NC=1C=C2C=C(NC2=CC1)C)F | C13H10ClFN4
